US09126950B2
In a 50 mL 3-neck RBF equipped with a magnetic stirrer, calcium chloride guard tube and thermo pocket was charged N4-(3-aminophenyl)-5-fluoro-N2-(4-(2-methoxyethoxy)phenyl)pyrimidine-2,4-diamine (0.40 g) in dry DCM (10 mL) and was cooled to −30° C. An acryloyl chloride solution in DCM (0.107 g in 5.0 mL DCM) was added slowly and the reaction mixture was stirred at −30° C. for approx. 40 minutes. The reaction was monitored on TLC using chloroform:methanol (9.6:0.4) as mobile phase. The reaction mixture was poured into water (100 mL) and basified using sodium bicarbonate. The reaction mixture was extracted with MDC (2×25 mL) and the combined organic layer was washed with 50 mL brine solution. The organic layer was dried over sodium sulfate and concentrated completely under reduce pressure at 40° C. Obtained solid was purified by triturating with diethyl ether (2×10 mL) and dried under vacuum to give 0.28 g N-(3-((5-fluoro-2-((4-(2-methoxyethoxy)phenyl)amino)pyrimidin-4-yl)amino)phenyl)acrylamide.

reactant | N4-(3-aminophenyl)-5-fluoro-N2-(4-(2-methoxyethoxy)phenyl)pyrimidine-2,4-diamine | 0.40 g | NC=1C=C(C=CC1)NC1=NC(=NC=C1F)NC1=CC=C(C=C1)OCCOC | C19H20FN5O2
reactant | acryloyl chloride | C(C=C)(=O)Cl | C3H3ClO
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5.0 mL, 0.107 g | C(Cl)Cl | CH2Cl2
solvent | water | 100 mL | O | H2O
product | N-(3-((5-fluoro-2-((4-(2-methoxyethoxy)phenyl)amino)pyrimidin-4-yl)amino)phenyl)acrylamide | 0.28 g | FC=1C(=NC(=NC1)NC1=CC=C(C=C1)OCCOC)NC=1C=C(C=CC1)NC(C=C)=O | C22H22FN5O3
